US07358378B2
Cis-3-Trimethylsiloxy-4-phenyl-azetidin-2-one
To a solution of N-trimethylsilyl-3-trimethylsiloxy-4-phenyl-azetidin-2-one (140 g, 0.46 mol) in hexanes (600 mL) at ambient temperature was added triethylamine (101 g, 1 mol), methanol (22 g, 0.7 mol) and the mixture was stirred for 15 minutes resulting in crystal formation of the N-desilylated product. The mixture was cooled to 0° C. for 15 min and the white crystals were collected by vacuum filtration, washed with cold hexanes, and dried to a constant weight of 94 g (87% yield). Mp: 118 to 120° C., 1H NMR (400 MHz, CDCl3) δ (ppm): −0.08 (s, 9H), 4.79 (d, J=4.4 Hz, 1H), 5.09 (dd, J=4.4, 2.7 Hz, 1H), 6.16 (bm, 1H), 7.3 to 7.4 (m, 5H).

reactant | N-trimethylsilyl-3-trimethylsiloxy-4-phenyl-azetidin-2-one | 0.46 mol, 140 g | C[Si](N1C(C(C1C1=CC=CC=C1)O[Si](C)(C)C)=O)(C)C | C15H25NO2Si2
reactant | triethylamine | 1 mol, 101 g | C(C)N(CC)CC | C6H15N
reactant | methanol | 0.7 mol, 22 g | CO | CH4O
product | Cis-3-Trimethylsiloxy-4-phenyl-azetidin-2-one | 87% yield | C[Si](O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O)(C)C | C12H17NO2Si
